US07960552B2
To a solution of 2,6-dichloroaniline (243 mg, 1.50 mmol) in dichloromethane (50 mL) at 0° C. was added trifluoroacetic anhydride (0.254 mL, 1.80 mmol) dropwise. The solution was stirred while the flask was in the cold bath for approximately 3 hours and then at ambient temperature for approximately 1 hour. The solution was concentrated and the residue was diluted with ethyl acetate, washed with aqueous sodium bicarbonate, dried over magnesium sulfate and concentrated to afford N-(2,6-dichlorophenyl)-2,2,2-trifluoroacetamide (350 mg, 90%). 1H-NMR (400 MHz, DMSO-d6) δ 11.58 (s, 1H), 7.63-7.43 (m, 3H).

reactant | 2,6-dichloroaniline | 1.50 mmol, 243 mg | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | trifluoroacetic anhydride | 1.80 mmol, 0.254 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(2,6-dichlorophenyl)-2,2,2-trifluoroacetamide | 350 mg, 90% | ClC1=C(C(=CC=C1)Cl)NC(C(F)(F)F)=O | C8H4Cl2F3NO
